US06255439B1
A solution of 25 g (80 mmol) of 3-pentadecylcyclohexanol in 190 ml of glacial acetic acid was cooled to about 0° C., with stirring, and a solution of 8.33 g (31.8 mmol) of sodium dichromate in 14 ml of glacial acetic acid and 5 ml of water was added dropwise over 4.5 hours at a temperature below 10° C. The reaction mixture was heated to 60° C. for one hour and vacuum stripped to remove acetic acid. The residue was diluted with water and extracted with ethyl acetate. The extract was washed with aqueous sodium bicarbonate solution and water and dried over sodium sulfate. Upon vacuum stripping of the solvent, the desired 3-pentadecylcyclohexanone was obtained as a waxy solid, m.p. 41° C. The yield was 23 g (92% of theoretical).

reactant | 3-pentadecylcyclohexanol | 80 mmol, 25 g | C(CCCCCCCCCCCCCC)C1CC(CCC1)O | C21H42O
reactant | sodium dichromate | 31.8 mmol, 8.33 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 190 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 3-pentadecylcyclohexanone | C(CCCCCCCCCCCCCC)C1CC(CCC1)=O | C21H40O
